US07691882B2
4-Cyclohexyloxy-benzaldehyde
To a tetrahydrofuran (250 mL) solution of diethylazodicarboxylate (16.1 mL, 40.9 mmol) were added 4-hydroxybenzaldehyde (5 g, 40.9 mmol), cyclohexanol (4.31 mL, 40.9 mmol) and triphenylphosphine (10.7 g, 40.9 mmol). This mixture was stirred for 30 hours at room temperature. The mixture was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=2:1) to obtain the title compound (2.84 g, 34%).

reactant | diethylazodicarboxylate | 40.9 mmol, 16.1 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 4-hydroxybenzaldehyde | 40.9 mmol, 5 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | cyclohexanol | 40.9 mmol, 4.31 mL | C1(CCCCC1)O | C6H12O
reactant | triphenylphosphine | 40.9 mmol, 10.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | tetrahydrofuran | 250 mL | O1CCCC1 | C4H8O
product | 4-Cyclohexyloxy-benzaldehyde | 2.84 g, 34% | C1(CCCCC1)OC1=CC=C(C=O)C=C1 | C13H16O2
